US05025025
A mixture of 1.44 g of 8-(p-chlorophenylsulfonamido-4-[3-(3-pyridyl)-propyl]-octanamide and 0.52 mL pyridine in 5.8 mL dioxane is cooled to 0° C. and 0.51 mL trifluoroacetic anhydride is added over a period of 1 hour. The mixture is then stirred at room temperature for 3 hours. The reaction is quenched by the addition of saturated aqueous sodium bicarbonate solution and extracted with methylene chloride (2×20 mL). The combined organic extracts are dried, filtered and evaporated to give 8-(p-chlorophenyl- sulfonamido)-4-[3-(3-pyridyl)propyl]octanenitrile.

reactant | p-chlorophenylsulfonamido-4-[3-(3-pyridyl)-propyl]-octanamide | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)N)CC(CCCC)CCCC=1C=NC=CC1 | C22H30ClN3O3S
reactant | pyridine | 0.52 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 0.51 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dioxane | 5.8 mL | O1CCOCC1 | C4H8O2
product | 8-(p-chlorophenyl- sulfonamido)-4-[3-(3-pyridyl)propyl]octanenitrile | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC#N)CCCC=1C=NC=CC1 | C22H28ClN3O2S
